US05420128
α-Acetyl-4-phenylthiophenylacetonitrile
To a stirred suspension of 144 mg of 60% sodium hydride, in 10 ml of tetrahydrofuran at 0° C. under nitrogen atmosphere was added a mixture of 396 mg of ethyl acetate, 675 mg of 4-phenylthiophenylacetonitrile and 5 ml of tetrahydrofuran. Thirty minutes later, the ice bath was removed. Seventeen hours later, the tetrahydrofuran was distilled off in vacuo, and 10 ml of 2N hydrochloric acid and 20 ml of dichloromethane were added and separated, and the water layer was further extracted twice in 20 ml of dichloromethane. The organic layer and extract were combined, and dried by anhydrous magnesium sulfate, and concentrated in vacuo, and the residue was isolated and refined by silica gel chromatography (the eluent was a mixed solvent of hexane:ethyl acetate at a (v/v) rate of 4:1), and 587 mg of the title compound was obtained.

reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | ethyl acetate | 396 mg | C(C)(=O)OCC | C4H8O2
reactant | 4-phenylthiophenylacetonitrile | 675 mg | C1(=CC=CC=C1)SC1=CC=C(C=C1)CC#N | C14H11NS
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | α-Acetyl-4-phenylthiophenylacetonitrile | 587 mg | C(C)(=O)C(C#N)C1=CC=C(C=C1)SC1=CC=CC=C1 | C16H13NOS
